US06353006B1
Methyl aminoisobutyric acid was converted to methyl aminoisobutyrate HCl salt according to method B1c, Step 1. The ester was reduced to 3-hydroxy-2-methyl-2-propylamine according to Method B1c, Step 2. The 2-hydroxyethylamine was treated with SOCl2 according to Method B7b, followed by 2-methyl-3-nitrophenyl isothiocyanate according to Method C1a to give 2-(2-methyl-4-nitrophenylimino)-4,4-dimethyl-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2a to afford 2-(2-methyl-4-nitrophenylimino)-4,4-dimethyl-3-isobutyl-1,3-thiazolidine.

reactant | Methyl aminoisobutyric acid | CCC(C(=O)O)(C)N | C5H11NO2
reactant | methyl aminoisobutyrate HCl salt | Cl.NC(C(=O)OC)(C)C
reactant | 3-hydroxy-2-methyl-2-propylamine | OCC(C)(C)N | C4H11NO
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2-methyl-3-nitrophenyl isothiocyanate | CC1=C(C=CC=C1[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 2-(2-methyl-4-nitrophenylimino)-4,4-dimethyl-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCC(N1)(C)C | C12H15N3O2S
